US09108934B2
Preparation 15: (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-{[5-(4-methoxybenzyloxy)-1-methyl-1H-pyrazole-3-carbonyl]amino}pentanoic Acid
5-(4-Methoxy-benzyloxy)-1-methyl-1H-pyrazole-3-carboxylic acid (118.8 mg, 453 mol) was combined with HCTU (187.3 mg, 453 μmol) and DMF (2.0 mL, 25.9 mmol). The mixture was stirred at room temperature for 15 minutes. DIPEA (225 μL, 1.3 mmol) and (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (150 mg, 430 μmol) were added and the mixture was stirred at room temperature for 15 minutes. The solvent was removed in vacuo. EtOH (1.5 mL, 25.9 mmol) was added, followed by a solution of 1 M LiOH in water (4.3 mL, 4.3 mmol). The mixture was stirred at room temperature for 1 hour. The solvent was removed in vacuo and the product was purified by reverse phase chromatography to yield the title compound (171 mg).

reactant | 5-(4-Methoxy-benzyloxy)-1-methyl-1H-pyrazole-3-carboxylic acid | 453 mol, 118.8 mg | COC1=CC=C(COC2=CC(=NN2C)C(=O)O)C=C1 | C13H14N2O4
reactant | HCTU | 453 μmol, 187.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 25.9 mmol, 2.0 mL | CN(C)C=O | C3H7NO
reactant | DIPEA | 1.3 mmol, 225 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 430 μmol, 150 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
reactant | EtOH | 25.9 mmol, 1.5 mL | CCO | C2H6O
reactant | LiOH | 1 M | [Li+].[OH-]
reactant | water | 4.3 mmol, 4.3 mL | O | H2O
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-{[5-(4-methoxybenzyloxy)-1-methyl-1H-pyrazole-3-carbonyl]amino}pentanoic Acid | 171 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C1=NN(C(=C1)OCC1=CC=C(C=C1)OC)C | C30H30ClN3O6
